US05225601
4-Carboxybenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether
20 g (0.063 mol) of 4-cyanobenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether were refluxed with 163 ml of 10N sodium hydroxide solution in 245 ml of ethanol for 2 h. The mixture was cooled and then poured into water, which was then acidified with hydrochloric acid, and the precipitate was filtered off with suction and washed with water and methanol. Drying resulted in 19.7 g of the title compound of melting point >330° C.

reactant | 4-cyanobenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether | 0.063 mol, 20 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)OCC1=CC=C(C=C1)C#N)C | C22H25NO
reactant | sodium hydroxide | 10N, 163 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 245 ml | C(C)O | C2H6O
product | 4-Carboxybenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether | 19.7 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)OCC1=CC=C(C=C1)C(=O)O)C | C22H26O3
